US09358231B2
(E)-ethyl 3-(2-(4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)vinyl)-4-methylbenzoate (302 mg, 58% yield) was prepared as described for Example 5-C starting from 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine (340 mg, 1.12 mmol) and ethyl 3-iodo-4-methylbenzoate (360 mg, 1.24 mmol). 1H NMR (600 MHz, CDCl3) δ 8.52 (s, 1H), 8.35 (d, J=1.2 Hz, 1H), 7.87 (dd, J=1.8, 7.8 Hz, 1H), 7.45 (d, J=16.2 Hz, 1H), 7.34 (d, J=16.2 Hz, 1H), 7.31-7.27 (m, 2H), 6.81 (d, J=3.6 Hz, 1H), 5.71 (s, 2H), 4.45 (q, J=7.2 Hz, 2H), 4.43 (s, 3H), 3.62 (t, J=8.4 Hz, 2H), 2.51 (s, 3H), 1.46 (t, J=7.2 Hz, 3H), 0.97 (t, J=8.4 Hz, 2H), 0 (s, 9H). MS m/z: 467 [M+1].

reactant | 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-5-vinyl-1H-pyrrolo[2,3-b]pyridine | 1.12 mmol, 340 mg | COC1=C2C(=NC=C1C=C)N(C=C2)COCC[Si](C)(C)C | C16H24N2O2Si
reactant | ethyl 3-iodo-4-methylbenzoate | 1.24 mmol, 360 mg | IC=1C=C(C(=O)OCC)C=CC1C | C10H11IO2
product | (E)-ethyl 3-(2-(4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)vinyl)-4-methylbenzoate | 302 mg, 58% yield | COC1=C2C(=NC=C1/C=C/C=1C=C(C(=O)OCC)C=CC1C)N(C=C2)COCC[Si](C)(C)C | C26H34N2O4Si
